US04598085
A mixture of 3.2 parts of α-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-ethanol nitrate, 2.4 parts of 1-chloro-2-(chloromethyl)benzene, 1.5 parts of a sodium hydride dispersion 50%, 70 parts of dimethyl sulfoxide and 63 parts of benzene is stirred for 2.50 hours at room temperature. Water is added and the product is extracted twice with 2,2'-oxybispropane. The extract is washed twice with water and the solvent is removed in vacuo. The residue is crystallized from 2,2'-oxybispropane, yielding 3 parts of 1-{2-[(2-chlorophenyl)methoxy]-2-(2,4-dichlorophenyl)ethyl}-1H-1,2,4-triazole; mp. 106.4° C.

reactant | α-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-ethanol nitrate | [N+](=O)([O-])OC(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C10H8Cl2N4O3
reactant | 1-chloro-2-(chloromethyl)benzene | ClC1=C(C=CC=C1)CCl | C7H6Cl2
reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | Water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-{2-[(2-chlorophenyl)methoxy]-2-(2,4-dichlorophenyl)ethyl}-1H-1,2,4-triazole | ClC1=C(C=CC=C1)COC(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C17H14Cl3N3O
